US05445762
1-(1-Adamantylcarbonyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane
Analogously to Example 14 from 1-aza-4,7,10,13,16-pentaoxacyclooctadecane and 1-adamantylcarbonyl chloride.

reactant | 1-aza-4,7,10,13,16-pentaoxacyclooctadecane | N1CCOCCOCCOCCOCCOCC1 | C12H25NO5
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 1-(1-Adamantylcarbonyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCOCCOCCOCCOCC2 | C23H39NO6
